US07700773B2
To a stirred solution of (1H-Pyrazol-3-yl)-acetonitrile (1.56 g, 14.5 mM) from Preparative Example 3 Step C in absolute EtOH (73 mL) at 25° C. was added o-chlorobenzylidene malononitrile (2.74 g, 14.5 mM) and piperidine (0.14 mL, 1.45 mM). The mixture then refluxed for 1.75 hr. The solvent evaporated. Chromatography on silica gel (30×5 cm) with CH2Cl2 afforded 7-Amino-5-(2-chloro-phenyl)-pyrazolo[1,5-a]pyridine-4,6-dicarbonitrile (0.62 g, 15%). HRMS: m/z 293.0472 (M+), Calcd. C15H8N5Cl1: m/z 293.0468; δC (CDCl3) CH: 99.3, 127.6, 129.6, 130.8, 131.6, 145.5; C: 75.7, 86.9, 114.8, 115.1, 131.5, 133.8, 138.4, 145.6, 149.2.

reactant | (1H-Pyrazol-3-yl)-acetonitrile | 14.5 mM, 1.56 g | N1N=C(C=C1)CC#N | C5H5N3
reactant | o-chlorobenzylidene malononitrile | 14.5 mM, 2.74 g | ClC1=C(C=C(C#N)C#N)C=CC=C1 | C10H5ClN2
reactant | piperidine | 1.45 mM, 0.14 mL | N1CCCCC1 | C5H11N
solvent | EtOH | 73 mL | CCO | C2H6O
product | 7-Amino-5-(2-chloro-phenyl)-pyrazolo[1,5-a]pyridine-4,6-dicarbonitrile | 0.62 g, 15% | NC1=C(C(=C(C=2N1N=CC2)C#N)C2=C(C=CC=C2)Cl)C#N | C15H8ClN5
